US07659294B2
Step B: Trans-2-(4-(5-(4-cyclopentylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-4-pyrrolidineacetic acid
A solution of methyl trans-N-tert-butyloxycarbonyl-2-(4-(5-(4-cyclopentylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-4-pyrrolidineacetate (4.4 mg, 8.3 μmol) in 2.5 mL of 20% TFA in CH2Cl2 was stirred at rt for 1 hr and then concentrated. The residue was redissolved in 5.0 mL of EtOH and sodium hydroxide (189 μL, 5.0 N, 0.95 mmol) was added. After stirring at rt for 1 hr, the reaction mixture was concentrated and the residue was purified on HPLC to give 3.5 mg (100%) of the title compound: 1H NMR (CD3OD) δ 1.60 (m, 214), 1.69 (m, 2H), 1.81 (m, 2H), 2.06 (m, 2H), 2.26 (m, 1H), 2.46 (m, 1H), 2.58 (m, 2H), 2.96 (m, 1H), 3.07 (m, 1H), 3.12 (dd, J=7.7, 11.9, 1H), 3.70 (dd, J=7.7, 11.8, 1H), 4.84 (t, J=8.6, 1H), 7.44 (d, J=8.2, 2H), 7.60 (d, J=8.4, 2H), 8.06 (d, J=8.4, 2H), 8.18 (d, J=8.2, 2H).

reactant | methyl trans-N-tert-butyloxycarbonyl-2-(4-(5-(4-cyclopentylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-4-pyrrolidineacetate | 8.3 μmol, 4.4 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)CC(=O)OC)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)C1CCCC1 | C31H37N3O5
reactant | sodium hydroxide | 0.95 mmol, 5.0 N, 189 μL | [OH-].[Na+]
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Trans-2-(4-(5-(4-cyclopentylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-4-pyrrolidineacetic acid | 3.5 mg, 100% | C1(CCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)[C@@H]1NC[C@H](C1)CC(=O)O | C25H27N3O3
